US04963590
Neopentyl 2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylate
The procedure described in Example 4 was repeated using 3,4-dihydroxy-5-nitrobenzaldehyde and neopentyl cyanoacetate. Yield 67%, m.p. 173°-179° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | neopentyl cyanoacetate | C(#N)CC(=O)OCC(C)(C)C | C8H13NO2
product | Neopentyl 2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylate | Yield 67% | C(#N)C(C(=O)OCC(C)(C)C)=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C15H16N2O6
